US08563735B2
4-((tetrahydro-2H-pyran-4-yl)methylamino)-3-(trifluoromethyl)benzenesulfonamide
A mixture of 4-fluoro-3-(trifluoromethyl)benzenesulfonamide (1.056 g), (tetrahydro-2H-pyran-4-yl)methanamine (0.5 g) and N,N-diisopropylethylamine (1.68 g) in anhydrous dimethylsulfoxide (15 mL) solution was heated at 90° C. overnight. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The organic phase was washed with water, brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford the title compound.

reactant | 4-fluoro-3-(trifluoromethyl)benzenesulfonamide | 1.056 g | FC1=C(C=C(C=C1)S(=O)(=O)N)C(F)(F)F | C7H5F4NO2S
reactant | (tetrahydro-2H-pyran-4-yl)methanamine | 0.5 g | O1CCC(CC1)CN | C6H13NO
reactant | N,N-diisopropylethylamine | 1.68 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((tetrahydro-2H-pyran-4-yl)methylamino)-3-(trifluoromethyl)benzenesulfonamide | O1CCC(CC1)CNC1=C(C=C(C=C1)S(=O)(=O)N)C(F)(F)F | C13H17F3N2O3S
